US07585875B2
To a 20 ml microwave reaction vial was added 3-iodo-2-isopropyl-pyrazolo[1,5-a]pyridine (690 mg, 2.41 mmol), 3-aminophenylboronic acid monohydrate (411 mg, 2.65 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (197 mg, 0.24 mmol), acetonitrile (8 ml), and 1 M aqueous Na2CO3 solution (5 ml). The mixture was placed in a microwave reactor for 2 hours at 140° C. The reaction mixture was concentrated in vacuo, and the crude material partitioned between dichloromethane and water. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by silica gel flash chromatography (0 to 30% ethyl acetate in hexanes) to give 205 mg (34%) of 3-(2-isopropyl-pyrazolo[1,5-a]pyridin-3-yl)-phenylamine. 1H-NMR (250 MHz, DMSO-d6) δ 8.40 (d, J=7.0 Hz, 1H), 7.44 (d, J=9.0 Hz, 1H), 7.25-7.18 (m, 1H), 7.03-6.97 (m, 1H), 6.81 (d, J=7.3 Hz, 1H), 6.71 (s, 1H), 6.67-6.62 (m, 2H), 3.65 (broad s, 2H), 3.35 (sept, J=6.9 Hz, 1H), 1.35 (d, J=6.8 Hz, 6H). LC/MS 252.3 m/z (M+H+). Compound 1100.

reactant | 3-iodo-2-isopropyl-pyrazolo[1,5-a]pyridine | 2.41 mmol, 690 mg | IC=1C(=NN2C1C=CC=C2)C(C)C | C10H11IN2
reactant | 3-aminophenylboronic acid monohydrate | 2.65 mmol, 411 mg | O.NC=1C=C(C=CC1)B(O)O
reactant | dichloromethane | 0.24 mmol, 197 mg | ClCCl | CH2Cl2
reactant | Na2CO3 | 1 M, 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 3-(2-isopropyl-pyrazolo[1,5-a]pyridin-3-yl)-phenylamine | 205 mg, 34% | C(C)(C)C1=NN2C(C=CC=C2)=C1C=1C=C(C=CC1)N | C16H17N3
